US08193207B2
3) 2-(Pyrrolidin-1-ylcarbonyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine
To a mixture of 5-bromo-2-(pyrrolidin-1-ylcarbonyl)pyridine (1.0 g, 4.1 mmol) and 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl](1.2 g, 4.6 mol) in 1,4-dioxane (10.0 mL) was added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (0.2 g, 0.2 mol), potassium acetate (1.2 g, 12 mmol), and 1,1′-bis(diphenylphosphino)ferrocene (0.1 g, 0.2 mmol) under an atmosphere of nitrogen. The reaction mixture was stirred at 80° C. overnight. After cooled to room temperature, the mixture was filtered through a pad of celite, washed with ethyl acetate, and concentrated. The residue was purified on a silica gel column with ethyl acetate in hexane gradient: (0 to 40%) to afford the desired product.

reactant | 5-bromo-2-(pyrrolidin-1-ylcarbonyl)pyridine | 4.1 mmol, 1.0 g | BrC=1C=CC(=NC1)C(=O)N1CCCC1 | C10H11BrN2O
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 4.6 mol, 1.2 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | dichloromethane | 0.2 mol, 0.2 g | ClCCl | CH2Cl2
reactant | potassium acetate | 12 mmol, 1.2 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.2 mmol, 0.1 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-(Pyrrolidin-1-ylcarbonyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | N1(CCCC1)C(=O)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H23BN2O3
